US03947470
Acylation of 2-(3-trifluoromethylbenzyl)benzofuran with p-anisoyl chloride is carried out as outlined in the procedure of Example 1 to give 3-(4-methoxybenzoyl)-2-(3-trifluoromethylbenzyl)benzofuran.

reactant | 2-(3-trifluoromethylbenzyl)benzofuran | FC(C=1C=C(CC=2OC3=C(C2)C=CC=C3)C=CC1)(F)F | C16H11F3O
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 3-(4-methoxybenzoyl)-2-(3-trifluoromethylbenzyl)benzofuran | COC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)CC3=CC(=CC=C3)C(F)(F)F)C=C1 | C24H17F3O3
